US07592477B2
Step a) Formation of N-(4-dodec-1-ynylbenzyl)-N-[2-(trifluoromethyl)benzyl]amine
The same procedure as employed in the preparation of Example 394 (step b) but using 4-dodec-1-ynylbenzaldehyde and 2-(trifluoromethyl)benzylamine gave the title compound as an oil. M+(LC/MS(ESI)): 430.4. HPLC (Condition A), Rt: 5.05 min (HPLC purity: 96.9%).

reactant | 4-dodec-1-ynylbenzaldehyde | C(#CCCCCCCCCCC)C1=CC=C(C=O)C=C1 | C19H26O
reactant | 2-(trifluoromethyl)benzylamine | FC(C1=C(CN)C=CC=C1)(F)F | C8H8F3N
product | N-(4-dodec-1-ynylbenzyl)-N-[2-(trifluoromethyl)benzyl]amine | C(#CCCCCCCCCCC)C1=CC=C(CNCC2=C(C=CC=C2)C(F)(F)F)C=C1 | C27H34F3N
